US09107411B2
To a solution of methyl 6-chloro-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylate (2.1 g, 7.2 mmol) in tetrahydrofuran (50 ml) was added dropwise, at 0° C., a solution of lithium hydroxide monohydrate (0.6 g, 14.3 mmol) in water (25 ml). The reaction mixture was stirred at this temperature for 14 h. After removing the tetrahydrofuran under reduced pressure, the aqueous solution was acidified with hydrochloric acid (2 M). The precipitated solid was filtered off with suction. 1.7 g (81% of theory) of 6-chloro-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylic acid were obtained.

reactant | methyl 6-chloro-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylate | 7.2 mmol, 2.1 g | ClC=1C(=CC2=C(NC(=N2)C(=O)OC)C1)C(NC1CC1)=O | C13H12ClN3O3
reactant | lithium hydroxide monohydrate | 14.3 mmol, 0.6 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | 6-chloro-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylic acid | 1.7 g, 81% | ClC=1C(=CC2=C(NC(=N2)C(=O)O)C1)C(NC1CC1)=O | C12H10ClN3O3
